US04113877
Preparation of 2-Aminomethyl-4-(1,1-dimethylethyl)-6-iodophenyl N,N-dimethylsulfamate
To a solution of 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenyl N,N-dimethylsulfamate hydrochloride (100 mg., 0.22 millimole) in water (30 ml.) is added 15N ammonium hydroxide (1 ml.). The resulting heterogeneous mixture is stirred at 20° C. for 5 minutes and decanted. Trituration of the insoluble gummy residue with petroleum ether provides a colorless solid which is collected, washed with petroleum ether and dried to afford 65 mg. (73%) of 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenyl N,N-dimethyl sulfamate, m.p. 94°-95° C.

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenyl N,N-dimethylsulfamate hydrochloride | 0.22 millimole, 100 mg | Cl.CN(S(OC1=C(C=C(C=C1I)C(C)(C)C)CN)(=O)=O)C
solvent | water | 30 ml | O | H2O
product | 2-Aminomethyl-4-(1,1-dimethylethyl)-6-iodophenyl N,N-dimethylsulfamate | CN(S(OC1=C(C=C(C=C1I)C(C)(C)C)CN)(=O)=O)C | C13H21IN2O3S
